US05981572
N-[3-(5-Chloro-benzofuran-4-yl)-propyl]-acetamide
Acetic anhydride (1.95 ml) was added dropwise to a solution of 3-(5-chloro-benzofuran-4-yl)-propylamine mixture with 3-(5-chloro-benzofuran-6-yl)-propylamine (2.86 g) and pyridine (2.2 ml) in dry THF (70 ml) at 0° under nitrogen. The mixture was stirred at room temperature for 3 h, then evaporated to dryness in vacuo . The residue was purified by HPLC (CN-PK5-10530 column). Eluting with 5% isopropanol/heptane gave the title compound as a colourless solid (1.37 g) mp 82-83° C.

reactant | Acetic anhydride | 1.95 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-(5-chloro-benzofuran-4-yl)-propylamine | ClC=1C=CC2=C(C=CO2)C1CCCN | C11H12ClNO
reactant | 3-(5-chloro-benzofuran-6-yl)-propylamine | 2.86 g | ClC=1C(=CC2=C(C=CO2)C1)CCCN | C11H12ClNO
reactant | pyridine | 2.2 ml | N1=CC=CC=C1 | C5H5N
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | N-[3-(5-Chloro-benzofuran-4-yl)-propyl]-acetamide | 1.37 g | ClC=1C=CC2=C(C=CO2)C1CCCNC(C)=O | C13H14ClNO2
